Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abnormal MRI
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ woman with history of depression, tremors,
hyperlipidemia, migraines, atrial fibrillation who presents for
evaluation of new brain mass.

She developed a cough earlier this year that was initially
treated as pneumonia. However, due to persistent cough, she
underwent a CT scan which showed left lower lobe ground glass,
and she ultimately underwent bronchoscopy with biopsy on the 
week
prior to this admission, which demonstrated adenocarcinoma of 
the
lung.

Yesterday, she had an MRI brain at ___ in ___
which showed a new 3 cm brain mass in the cerebellum with 
several
other lesions possibly consistent with metastatic disease. She
was referred here by her nurse practitioner for neurosurgical
evaluation. 

In the ED, she had no focal complaints. No neurologic symptoms
and a entirely normal neurologic exam. 

Neurosurgery eval'd:
Patient seen and examined, imaging reviewed. MRI shows a <2cm
cerebellar lesion as well as small L frontal and R frontal
lesions, likely metastatic given recent diagnosis of
adenocarcinoma. Lesions should be amenable to SRS. Recommend
medicine admission for completion of metastatic workup and
staging, Radiation Oncology consult. If lesion enlarges or is 
not
responsive to SRS, neurosurgery is available to re-evaluate.
 
In the ED...  
- Initial vitals:  98.9 67 136/87 16 95% RA
- Labs/studies notable for: All within normal limits
- Patient was given: nothing   
 
On the floor, patient continues to note no focal neurologic
complaints.
 
Past Medical History:
AF
HLD
Depression
Migraines
 
Social History:
___
Family History:
Maternal FH of breast cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM
___ 1617 Temp: 97.8 PO BP: 111/73 R Sitting HR: 65 RR: 18 
O2
sat: 90% O2 delivery: Ra 
GEN: Well appearing, NAD
HEENT: Conjunctiva clear, PERRL, MMM 
LUNGS: CTAB
HEART: RRR, nl S1, S2. No m/r/g.
ABD: NT/ND, normal bowel sounds. 
EXTREMITIES: No edema. WWP.
SKIN: No rashes.
NEURO: AOx3. CN II-XII intact. ___ Strength in UE and ___. Normal
Sensation. Normal finger-nose testing. 

DISCHARGE PHYSICAL EXAM
VITALS: Reviewed in OMR
GEN: Well appearing, NAD
HEENT: Conjunctiva clear, PERRL, MMM 
LUNGS: CTAB
HEART: RRR, nl S1, S2. No m/r/g.
ABD: NT/ND, normal bowel sounds. 
EXTREMITIES: No edema. WWP.
SKIN: No rashes.
NEURO: AOx3. CN II-XII intact. ___ Strength in UE and ___. Normal
Sensation. Normal finger-nose testing. 
 
Pertinent Results:
ADMISSION LABS
==================
___ 09:51AM BLOOD WBC-6.6 RBC-4.80 Hgb-14.8 Hct-44.9 MCV-94 
MCH-30.8 MCHC-33.0 RDW-12.0 RDWSD-41.6 Plt ___
___ 09:51AM BLOOD Neuts-70.2 ___ Monos-8.1 Eos-1.5 
Baso-0.8 Im ___ AbsNeut-4.60 AbsLymp-1.25 AbsMono-0.53 
AbsEos-0.10 AbsBaso-0.05
___ 09:51AM BLOOD ___ PTT-29.9 ___
___ 09:51AM BLOOD Glucose-104* UreaN-18 Creat-0.9 Na-136 
K-4.7 Cl-101 HCO3-21* AnGap-14
___ 09:51AM BLOOD Calcium-9.3 Phos-4.7* Mg-2.2
___ 12:30PM URINE Color-Straw Appear-Clear Sp ___
___ 12:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG

DISCHARGE LABS
==================
___ 07:07AM BLOOD WBC-6.2 RBC-4.83 Hgb-14.8 Hct-45.7* 
MCV-95 MCH-30.6 MCHC-32.4 RDW-12.0 RDWSD-41.9 Plt ___
___ 07:07AM BLOOD Glucose-104* UreaN-16 Creat-0.9 Na-139 
K-4.5 Cl-104 HCO3-24 AnGap-11
___ 07:07AM BLOOD Calcium-9.1 Phos-5.2* Mg-2.1

IMAGING
=========
CHEST X RAY ___
There is again seen consolidation throughout the majority of the 
left lower lobe and portions of the left upper lobe as compared 
to the CT scan. Cardiomediastinal silhouette is within normal 
limits.  There are no 
pneumothoraces. There is likely a small left-sided pleural 
effusion. 

MICROBIOLOGY
================
___ 12:30 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.
 
Brief Hospital Course:
Ms ___ is a ___ y/o F with PMH of AF, HLD, and depression, 
who
presents as a transfer after recent new diagnosis of alveolar
lung cancer, with head MRI reveal multiple new brain lesions. 

TRANSITIONAL ISSUES
====================
[] PET scan scheduled for ___ at ___
[] Appointment on ___ with Dr. ___ for transition of 
care to ___ oncology
[] Referred to neuro-oncology (Dr. ___ and radiation 
oncology for further evaluation of cerebellar lesion
[] No indication for steroids or AED at this time per NSGY
[] Recent baseline O2 in high ___ to low ___ per patient, noted 
to be in low ___ on room air while inpatient. Consider 
evaluation for home O2 if worsening hypoxia at follow-up.
[] Hold Aspirin from ___ in anticipation of lumbar puncture on 
___ at neuro-oncology appointment
[] Will need repeat brain MRI with brain tumor protocol per 
neuro-oncology

New Medications:
None

Changed Medications:
None

Stopped/Held Medications:
None

ACUTE ISSUES:
=============
# New Diagnosis of Adenocarcinoma
# Brain Metastasis
Patient with recent diagnosis of lung cancer, with MRI head 
(performed for screening at ___ revealing multiple CNS 
lesions, including 3 cm lesion in cerebellum. Reassuringly 
without focal neurologic deficit or any indication for steroids 
at this time. Was admitted at the recommendation of neurosurgery 
for expedited workup of cancer, however follows with ___ 
___ and is scheduled to get PET scan for staging there on 
___. Patient notes that she would like to transition care to BI, 
has appointment on ___ with Dr. ___. As patient already has 
tissue diagnosis, brain MRI, scheduled for upcoming PET scan, 
and has outpatient appointment this week with ___ oncology, 
does not appear to be role for ___ medical oncology 
evaluation at this time. Discussed with neurosurgery and medical 
oncology, and plan for continued outpatient work-up with PET 
scan on ___ at ___, medical oncology follow-up on ___ at ___, 
and referral to radiation oncology and neuro-oncology.

#Hypoxic Respiratory Failure
Patient reports hx of baseline hypoxia to high ___ low ___ in 
setting of recent lung CA diagnosis. O2 stable in 90-92% range 
on day of discharge without associated pulmonary symptoms.

CHRONIC ISSUES:
===============
# AF
CHADS2-Vasc 1 (female sex).
- Rate: Continued home diltiazem 
- Anticoag: None. Reportedly on ASA 162 for this purpose, which 
was continued

# Depression 
- Continued home escitalopram 15 mg
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diltiazem Extended-Release 180 mg PO DAILY 
2. Simvastatin 10 mg PO QPM 
3. Escitalopram Oxalate 15 mg PO DAILY 
4. Aspirin 162 mg PO DAILY 
5. Fish Oil (Omega 3) Dose is Unknown  PO BID 

 
Discharge Medications:
1.  Fish Oil (Omega 3) 1000 mg PO BID  
2.  Aspirin 162 mg PO DAILY  
3.  Diltiazem Extended-Release 180 mg PO DAILY  
4.  Escitalopram Oxalate 15 mg PO DAILY  
5.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
===================
Lung adenocarcinoma
Cerebellar Mass

SECONDARY DIAGNOSIS
===================
Hypoxic Respiratory Failure
Atrial Fibrillation
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You had a brain MRI showing a new brain mass concerning for 
metastasis of lung cancer.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were evaluated by neurosurgery, who assessed that surgical 
intervention was not indicated at this time. Per discussion with 
medical oncology, neuro-oncology, and radiation oncology, plan 
was made to continue outpatient work-up and follow-up as 
previously scheduled. You were also referred to the brain tumor 
and radiation oncology clinics for further evaluation.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___